US09428511B2
Step 6: (3S,4S)-Benzyl 3-amino-4-(fluoromethyl)pyrrolidine-1-carboxylate (Intermediate 6)
A solution of (3S,4S)-benzyl 3-((tert-butoxycarbonyl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate (Pk1) (1.012 g, 2.87 mmol) in CH2Cl2 (10 mL) at 0° C. was added TFA (2.212 mL, 28.7 mmol) and the resulting mixture was allowed to warm to rt and stir for 1 hr. The reaction mixture was concentrated and redissolved in 70 mL of CH2Cl2 and was washed with 20 mL of 2M Na2CO3 solution and 20 mL of brine then dried over Na2SO4. Filtration and concentration afforded the title compound (0.718 g, 99% yield). 1H NMR (500 MHz, chloroform-d) δ 7.41-7.31 (m, 5H), 5.24-5.08 (m, 2H), 4.77-4.43 (m, 2H), 3.75-3.57 (m, 3H), 3.37 (s, 2H), 2.66-2.49 (m, 1H). MS(ES+) m/z: 253.2 (M+H); HPLC retention time: 1.023 min (analytical HPLC Method B). Chiral purity: 99.9% ee (chiral HPLC conditions: column: CHIRALPAK® AD-H (25×0.46 cm, 5 μm), 35% MeOH in CO2, 3 mL/min, 45° C., 220 nm, 100 bar).

reactant | (3S,4S)-benzyl 3-((tert-butoxycarbonyl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate | 2.87 mmol, 1.012 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1CF)C(=O)OCC1=CC=CC=C1 | C18H25FN2O4
reactant | TFA | 28.7 mmol, 2.212 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (3S,4S)-Benzyl 3-amino-4-(fluoromethyl)pyrrolidine-1-carboxylate | 0.718 g, 99% yield | N[C@@H]1CN(C[C@@H]1CF)C(=O)OCC1=CC=CC=C1 | C13H17FN2O2
